US07943607B2
8,9-Difluoro-4-methyl-3,4-dihydro-1,4-benzoxazepin-5(2H)-one
DIPEA (0.68 mL, 3.9 mmol) was added to a solution of 2,3,4-trifluorobenzoyl chloride (500 mg, 2.6 mmol) in DCM (5 mL) followed by the addition of N-methylethanolamine (0.31 mL, 3.9 mmol). The mixture was stirred for 20 hours. The solution was diluted with methanol (10 mL) and passed through an ISOLUTE® SCX-2 SPE column. The solution was evaporated. The residue was dissolved in DMF and sodium hydride (60% dispersion in mineral oil, 0.11 g, 2.7 mmol) was added portionwise over 5 minutes. The resulting mixture was stirred for 20 hours. Water (100 mL) was added dropwise and the mixture was extracted with ether (3×200 mL). Combined ethereal extracts were dried (MgSO4) and evaporated. The residue was purified by column chromatography (eluting with 1:1 ethyl acetate:isohexane to neat ethyl acetate) to afford the title compound (117 mg, 20%) as a colourless solid.

reactant | DIPEA | 3.9 mmol, 0.68 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,3,4-trifluorobenzoyl chloride | 2.6 mmol, 500 mg | FC1=C(C(=O)Cl)C=CC(=C1F)F | C7H2ClF3O
reactant | N-methylethanolamine | 3.9 mmol, 0.31 mL | CNCCO | C3H9NO
reactant | sodium hydride | 2.7 mmol, 0.11 g | [H-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
solvent | Water | 100 mL | O | H2O
product | 8,9-Difluoro-4-methyl-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 117 mg, 20% | FC1=C(C2=C(C(N(CCO2)C)=O)C=C1)F | C10H9F2NO2
